datasets/RMG-dataset.csv
rxn,Ea
[C:0]([H:1])([H:2])[H:3].[c:4]1([H:20])[c:5]([H:21])[c:6]2[c:7]([H:22])[c:8]([H:23])[c:9]3[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]4[c:14]([H:27])[c:15]([H:28])[c:16]([c:17]1[H:29])[c:18]2[c:19]34>>[C:0]([H:1])([H:2])([H:3])[H:21].[c:4]1([H:20])[c:5][c:6]2[c:7]([H:22])[c:8]([H:23])[c:9]3[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]4[c:14]([H:27])[c:15]([H:28])[c:16]([c:17]1[H:29])[c:18]2[c:19]34,23.8625
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:24],17.639744
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[S:19][H:26])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[S:19][H:26],28.8696
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16],85.772
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:15]([C:14]([H:17])([H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],-2.34304
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8]>>[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])[H:4].[H:3][O:8],22.610336
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]#[C:10][C:11]([H:15])([H:16])[H:17])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:9]([C:8]([H:12])([H:13])[H:14])=[C:10][C:11]([H:15])([H:16])[H:17])([H:3])[H:4],21.715
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22],36.8192
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[S:16])[H:23])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[S:16])[H:23],63.1784
[C:0](=[N:1])([H:2])[H:3].[C:4]([H:5])([H:6])[H:7]>>[C:0](#[N:1])[H:3].[H:2][C:4]([H:5])([H:6])[H:7],-4.64424
[C-:8]#[O+:9].[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4]>>[C:0]([H:2])([H:3])([H:4])[C:8]([C:1]([H:5])([H:6])[H:7])=[O:9],437.228
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[S:9]=[C:10]([C:11]([S:12][H:15])[H:14])[H:13]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:11]([C:10](=[S:9])[H:13])([S:12][H:15])[H:14],94.3492
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[O:22][H:23]>>[C:0](=[C:1]([C:2]([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[H:10][O:22][H:23],3.05197696
[H:4].[O:0]=[S:1][O:2][H:3]>>[H:3][H:4].[O:0]=[S:1]=[O:2],-5.380624
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:27])([H:28])[H:29])=[C:17]([c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:30])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:24])([H:25])[H:26])([C:16]([H:27])([H:28])[H:29])[C:17]([c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:30])[H:7])([H:5])[H:6],49.2038
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11][O:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:11][O:12],218.78136
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11],71.128
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[C:8]([C:9]([H:20])([H:21])[H:22])[c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:16])([H:17])[H:18])([C:8]([C:9]([H:20])([H:21])[H:22])[c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:19])[H:3],38.953
